US20010025045A1
4-Methoxy-3-trifluoromethylbenzoic acid
The title compound was prepared from 3-bromo4-methoxybenzoic acid and potassium trifluoroacetate in a manner similat to that of Preparation 14.

reactant | 3-bromo4-methoxybenzoic acid | BrC=1C=C(C(=O)O)C=CC1OC | C8H7BrO3
reactant | potassium trifluoroacetate | FC(C(=O)[O-])(F)F.[K+]
product | 4-Methoxy-3-trifluoromethylbenzoic acid | COC1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C9H7F3O3
